US07034015B2
2-({([(5-Bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)amino]carbonyl}amino)ethyl 2-methylacrylate (Compound 200)
2-Isocyanatoethyl 2-methylacrylate (0.31 g, 2.2 mmol) was slowly added to a solution of {4-[(2-amino-4-bromophenyl)amino]-2-chlorophenyl}(2-methylphenyl)methanone (0.60 g, 1.44 mmol)(disclosed in WO 01/05744) in dry pyridine (3.00 mL). The solution was stirred at room temperature for 6 h after which it was poured into a mixture of water and EtOAc. The aqueous phase was extracted with more EtOAc (×2). The combined organic phases were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using petroleum ether/EtOAc 4:1 as the eluent to afford the title compound as a light brown solid.

reactant | 2-Isocyanatoethyl 2-methylacrylate | 2.2 mmol, 0.31 g | CC(C(=O)OCCN=C=O)=C | C7H9NO3
reactant | {4-[(2-amino-4-bromophenyl)amino]-2-chlorophenyl}(2-methylphenyl)methanone | 1.44 mmol, 0.60 g | NC1=C(C=CC(=C1)Br)NC1=CC(=C(C=C1)C(=O)C1=C(C=CC=C1)C)Cl | C20H16BrClN2O
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 3.00 mL | N1=CC=CC=C1 | C5H5N
product | {([(5-Bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)amino]carbonyl}amino)ethyl 2-methylacrylate | CC(C(=O)OCCNC(=O)NC1=C(C=CC(=C1)Br)NC1=CC(=C(C=C1)C(C1=C(C=CC=C1)C)=O)Cl)=C | C27H25BrClN3O4
